US08389523B2
42.1 g (0.11 mol) of N1-(diphenylmethylene)-N2-(6-methylpyridine-2-yl)benzene-1,2-diamine was dissolved in tetrahydrofuran (100 ml), and 10% hydrochloric acid (45 ml) was added thereto, and was stirred for 2 hours at room temperature. The solvent was distilled off under reduced pressure, and water was added to the residue thus obtained and washed with ethyl acetate. Then, the aqueous layer was adjusted to pH >11, and the aqueous layer was extracted with methylene chloride. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain 19.8 g (yield: 83%) of N-(6-methylpyridine-2-yl)benzene-1,2-diamine.

reactant | N1-(diphenylmethylene)-N2-(6-methylpyridine-2-yl)benzene-1,2-diamine | 0.11 mol, 42.1 g | C1(=CC=CC=C1)C(=NC=1C(=CC=CC1)NC1=NC(=CC=C1)C)C1=CC=CC=C1 | C25H21N3
reactant | hydrochloric acid | 45 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(6-methylpyridine-2-yl)benzene-1,2-diamine | 19.8 g, yield: 83% | CC1=CC=CC(=N1)NC=1C(=CC=CC1)N | C12H13N3
